US07432275B2
4. 4-(4-t-Butyl-phenylamino)-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid
Dissolve 4-(4-t-butyl-phenylamino)-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid ethyl ester (25 mg, 0.57 mmol) and LiOH.H2O (8 mg, 0.17 mmol) in a solution of THF (2.5 mL) and H2O (0.2 mL). Stir the mixture overnight at room temperature. Add water 10 mL and acidify with 3 N HCl. Extract the mixture with EtOAc (3×10 mL). Wash the combined organic extracts with brine and dry over Na2SO4. Remove the solvent under reduced pressure to yield the title compound. MS 414.18 (M+1).

reactant | 4-(4-t-butyl-phenylamino)-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid ethyl ester | 0.57 mmol, 25 mg | C(C)OC(=O)C=1N=C(C2=C(N1)N=C(C=C2)C2=NC=CC=C2C)NC2=CC=C(C=C2)C(C)(C)C | C26H27N5O2
reactant | LiOH.H2O | 0.17 mmol, 8 mg | O[Li].O
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.2 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 4-(4-t-Butyl-phenylamino)-7-(3-methyl-pyridin-2-yl)-pyrido[2,3-d]pyrimidine-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)C(=O)O)N=C(C=C2)C2=NC=CC=C2C | C24H23N5O2
